US04351839
B. 2-bromomethyl-4-ethyl-2-(2,4-dichlorophenyl)-gamma-butyrolactone
To a solution of 14.8 g. (0.23 m) diisopropylamine in 100 ml. of dry tetrahydrofuran is added 14.8 g. (023 m) n-butyllithium at -60° C. under nitrogen. Stirring is continued for 15 minutes when a solution of 50 g. (0.19 m) 2-(2,4-dichlorophenyl)-4-ethyl-gamma-butyrolactone in 75 ml. of tetrahydrofuran is added dropwise in one hour. The resulting mixture is further stirred for an addition 1/2 hour when the temperature is raised to -40° C. and a solution of 40.3 g. (0.23 m) dibromomethane and 41.5 g. (0.23 m) hexamethylphosphoramide is added dropwise in 45 minutes. The reaction mixture is stirred at room temperature overnight. It is then poured into 500 ml. of saturated ammonium chloride solution and extracted with ether. The combined ether extracts are dried over sodium sulfate and filtered. The solvent is removed under vacuum and the residue is further purified by vacuum distillation (158° C./0.1 mm) to give 47 g. of a yellow oil.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(2,4-dichlorophenyl)-4-ethyl-gamma-butyrolactone | ClC1=C(C=CC(=C1)Cl)C1C(=O)OC(C1)CC | C12H12Cl2O2
reactant | dibromomethane | BrCBr | CH2Br2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromomethyl-4-ethyl-2-(2,4-dichlorophenyl)-gamma-butyrolactone | BrCC1(C(=O)OC(C1)CC)C1=C(C=C(C=C1)Cl)Cl | C13H13BrCl2O2
